US07884242B2
2.2 g (64%) (5-methyl-4-nitro-2-thienyl)methanol as an orange-brown oil.
1.0 g (3.98 mmol) (5-methyl-4-nitro-2-thienyl)methylmethane sulphonate, 0.82 g (3.98 mmol) 3,5-bis(trifluoromethyl)-1H-1,2,4-triazole, 0.93 g (5.97 mmol) potassium carbonate and 0.11 g (0.398 mmol) 18-crown-6 are heated under reflux in acetonitrile for 2 h. The cooled reaction mixture is evaporated, the residue taken up in 20 ml water and extracted three times with ethyl acetate. The combined organic phases are washed with saturated sodium chloride solution, dried over sodium sulphate and the solvent is distilled off under vacuum. The product (1-[(5-methyl-4-nitro-2-thienyl)methyl]-3,5-bis(trifluoromethyl)-1H-1,2,4-triazole) is used in the next stage without purification.

reactant | (5-methyl-4-nitro-2-thienyl)methylmethane sulphonate | 3.98 mmol, 1.0 g | CC1=C(C=C(S1)CCS(=O)(=O)[O-])[N+](=O)[O-]
reactant | 3,5-bis(trifluoromethyl)-1H-1,2,4-triazole | 3.98 mmol, 0.82 g | FC(C1=NNC(=N1)C(F)(F)F)(F)F | C4HF6N3
reactant | potassium carbonate | 5.97 mmol, 0.93 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 0.398 mmol, 0.11 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | C(C)#N | C2H3N
product | (5-methyl-4-nitro-2-thienyl)methanol | CC1=C(C=C(S1)CO)[N+](=O)[O-] | C6H7NO3S
